US07737166B2
6-(3-Chlorophenyl)-4-cyano-N,N,5-trimethyl-7-[(3S)-3-(methylamino)pyrrolidin-1-yl]-1,3-benzoxazole-2-carboxamide (#146)
6-(3-Chlorophenyl)-4-cyano-7-fluoro-N,N,5-trimethyl-1,3-benzoxazole-2-carboxamide (I-311) (500 mg, 1.40 mmol) was dissolved in dimethyl sulfoxide (20 ml), and at room temperature, triethylamine (215 μl, 1.54 mmol) was added. The solution was gradually heated from room temperature up to 150° C., and a solution of (3S)-3-(methylamino)pyrrolidine (164 μl, 1.54 mmol) dissolved in dimethyl sulfoxide (3 ml) was added all at a time. After stirred at the same temperature for 30 minutes, this was cooled to room temperature. The solvent was evaporated away under reduced pressure, and the resulting residue was fractionated with chloroform and an aqueous saturated sodium hydrogencarbonate solution. The aqueous layer was further extracted twice with chloroform. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was first roughly purified by middle-pressure liquid chromatography using an eluent of chloroform:methanol=95:5 (v/v), and then the roughly-purified product was purified by preparative TLC (eluent, chloroform:7 N ammonia/methanol solution=95:5, v/v), and further the obtained solid was purified in slurry with diisopropyl ether to obtain the entitled compound (250 mg, 41%) as a pale yellow solid.

reactant | 6-(3-Chlorophenyl)-4-cyano-7-fluoro-N,N,5-trimethyl-1,3-benzoxazole-2-carboxamide | 1.40 mmol, 500 mg | ClC=1C=C(C=CC1)C1=C(C2=C(N=C(O2)C(=O)N(C)C)C(=C1C)C#N)F | C18H13ClFN3O2
reactant | triethylamine | 1.54 mmol, 215 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(methylamino)pyrrolidine | 1.54 mmol, 164 μl | CN[C@@H]1CNCC1 | C5H12N2
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 6-(3-Chlorophenyl)-4-cyano-N,N,5-trimethyl-7-[(3S)-3-(methylamino)pyrrolidin-1-yl]-1,3-benzoxazole-2-carboxamide | 250 mg, 41% | ClC=1C=C(C=CC1)C1=C(C2=C(N=C(O2)C(=O)N(C)C)C(=C1C)C#N)N1C[C@H](CC1)NC | C23H24ClN5O2
